US05489606
(2R,3R)-2-(2,4-Difluorophenyl)-3-(methylthiomethylthio)-1-(1H-1,2,4-triazol-1-yl)-2-butanol
31 mg (0.70 mmole) of sodium hydride (as a 55% w/w dispersion in mineral oil) were washed with anhydrous hexane and then suspended in 2 ml of dimethylformamide. 100 mg (0.35 mmole) of (2R,3R)-2-(2,4-difluorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)-2-butanol were then added at 0° C., with stirring, to the resulting suspension. After evolution of hydrogen gas had ceased, 67 mg (0.70 mmole) of methylthiomethyl chloride were added to the mixture. The resulting mixture was then stirred at the same temperature for 1 hour. At the end of this time, the reaction mixture was partitioned between ethyl acetate and an aqueous solution of sodium chloride. The organic layer was dried and concentrated by distilling off the solvent. The crude product thus obtained was purified by column chromatography through silica gel, using a 3:1 by volume mixture of ethyl acetate and hexane as the eluent, to afford 105 mg of the title compound as a solid. A pule specimen (78 mg), melting at 108°-109° C., was obtained by recrystallization of this solid from a mixture of ethyl acetate and hexane.

reactant | sodium hydride | 0.70 mmole, 31 mg | [H-].[Na+]
reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.35 mmole, 100 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S)O | C12H13F2N3OS
reactant | hydrogen | [H][H] | H2
reactant | methylthiomethyl chloride | 0.70 mmole, 67 mg | CSCCl | C2H5ClS
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-(methylthiomethylthio)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 105 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SCSC)O | C14H17F2N3OS2
